US07582775B2
B. 3-{4-[1-Ethyl-1-(6-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol
To a mixture of {4-[1-ethyl-1-(6-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-acetic acid methyl ester (1.50 g, 3.64 mmol) and THF (20 mL) is added ethyl magnesium bromide (3.0 mL, 9.1 mmol, 3M in THF). The solution is heated at a reflux for 3 h, diluted with saturated ammonia chloride solution (80 mL), extracted with diethyl ether (2×75 mL), dried over MgSO4, filtered, and concentrated. The residue is purified by silica gel chromatography (10% to 30% EtOAc gradient) to give the title compound (0.90 g, 2.04 mmol, 56%). 1H NMR (CDCl3), δ 0.75 (t, J=7.6 Hz, 6H), 0.95 (t, J=7.4 Hz, 6H), 1.68 (q, J=14.8, 7.5 Hz, 4H), 2.13-2.24 (m, 7H), 3.81 (s, 2H), 3.86 (s, 3H), 6.73 (dd, J =8.2 Hz, 1H), 6.89 (dd, J =8.8, 2.6 Hz, 1H), 7.06 (s, 2H), 7.09 (dd, J=8.4, 2.5 Hz, 1H), 7.17 (d, J=2.7 Hz, 1H), 7.55 (d, J=8.8 Hz, 1H). LC/MS (m/z): calcd. for C27H37O3S (M+H)+: 441.3; found: 441.2.

reactant | {4-[1-ethyl-1-(6-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-acetic acid methyl ester | 3.64 mmol, 1.50 g | COC(COC1=C(C=C(C=C1)C(CC)(C1=CC2=C(S1)C=C(C=C2)OC)CC)C)=O | C24H28O4S
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | ethyl magnesium bromide | 9.1 mmol, 3M, 3.0 mL | C(C)[Mg]Br
solvent | ammonia chloride | 80 mL | [Cl-].N
product | 3-{4-[1-Ethyl-1-(6-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol | 2.04 mmol, 0.90 g, 56% | C(C)C(CC)(C1=CC2=C(S1)C=C(C=C2)OC)C2=CC(=C(OCC(CC)(CC)O)C=C2)C | C27H36O3S
